US04234588
Methyl iodide (13.79 g) was added to a stirred solution of 5-(6-methyl-3-pyridylmethyl)-2-thiouracil (22.66 g) and sodium hydroxide (8.0 g) in water (250 ml), and the mixture was heated at 70° for 1 hour and stirred at room temperature overnight. Acetic acid was added until pH 5 and the volume of the mixture was evaporated to a volume of 50 ml. The solid was filtered off and was recrystallised from ethanol-acetic acid to give 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone (10.16 g) m.p. 197°-197.5°.

reactant | Methyl iodide | 13.79 g | CI | CH3I
reactant | 5-(6-methyl-3-pyridylmethyl)-2-thiouracil | 22.66 g | CC1=CC=C(C=N1)CC=1C(NC(NC1)=S)=O | C11H11N3OS
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 250 ml | O | H2O
product | 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone | 10.16 g | CC1=CC=C(C=N1)CC=1C(NC(=NC1)SC)=O | C12H13N3OS
